US07696231B2
b) Preparation of 4-(hydrazinocarbonyl)-N-{3-[(trifluoromethyl)sulfonyl]phenyl}-benzamide (Scheme 2 compound B)
To a suspension of methyl 4-({3-[(trifluoromethyl)sulfonyl]anilino}carbonyl)benzoate (390 mg, 1.1 mmol) in EtOH (6 mL) was added hydrazine hydrate (1 mL). After stirring for 15 hrs at reflux, the reaction mixture was cooled to rt and a white solid precipitated out Filtration, washing with EtOH (1×1 mL) and water (3×1 mL), and drying under vacuo at 60° C. for 2 hrs gave 247 mg of the title compound (63%) as a white solid in 95% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-({3-[(trifluoromethyl)sulfonyl]anilino}carbonyl)benzoate | 1.1 mmol, 390 mg | FC(S(=O)(=O)C=1C=C(NC(=O)C2=CC=C(C(=O)OC)C=C2)C=CC1)(F)F | C16H12F3NO5S
reactant | hydrazine hydrate | 1 mL | O.NN
solvent | EtOH | 6 mL | CCO | C2H6O
product | 4-(hydrazinocarbonyl)-N-{3-[(trifluoromethyl)sulfonyl]phenyl}-benzamide | 247 mg, 63% | N(N)C(=O)C1=CC=C(C(=O)NC2=CC(=CC=C2)S(=O)(=O)C(F)(F)F)C=C1 | C15H12F3N3O4S
